US04665182
A mixture of 2-amino-7,8-dihydro-6-methoxymethyl-7,7-dimethyl-4(3H)-pteridinone, 0.10 g and platinum oxide (prereduced) 0.015 g, in 6 mL of 2N HCl was hydrogenated at 1 atm H2 at room temperature for 2.5 hr. the mixture was filtered, and the filtrate was evaporated. This crude product was recrystallized from 6N HCl/MeCN to yield 2-amino-5,6,7,8-tetrahydro-6-methoxymethyl-7,7-dimethyl-4(3H)-pteridinone hydrochloride 0.089 g as a white solid, m.p. 214°-300° C. (dec), 76% of theoretical yield.

reactant | 2-amino-7,8-dihydro-6-methoxymethyl-7,7-dimethyl-4(3H)-pteridinone | NC1=NC=2NC(C(=NC2C(N1)=O)COC)(C)C | C10H15N5O2
reactant | HCl | 2N, 6 mL | Cl | ClH
catalyst | platinum oxide | 0.015 g | [Pt]=O
product | 2-amino-5,6,7,8-tetrahydro-6-methoxymethyl-7,7-dimethyl-4(3H)-pteridinone hydrochloride | 0.089 g | Cl.NC1=NC=2NC(C(NC2C(N1)=O)COC)(C)C | InChI=1S/C10H17N5O2.ClH/c1-10(2)5(4-17-3)12-6-7(15-10)13-9(11)14-8(6)16;/h5,12H,4H2,1-3H3,(H4,11,13,14,15,16);1H
